US09145414B2
Methanol (130 mL) and p-toluenesulfonic acid monohydrate (134 mg) were added to (4S,5S)-tert-butyl 4-(ethoxymethyl)-2,2,5-trimethyloxazolidine-3-carboxylate obtained in the above-described Step 1 (1.34 g), and the reaction solution was stirred at room temperature overnight. An aqueous sodium bicarbonate solution was added to the reaction solution, and methanol was evaporated under vacuum. Water and ethyl acetate were added, the organic layer was separated, and then washed with a saturated saline solution. After drying over anhydrous sodium sulfate, the solvent was evaporated under vacuum. The resultant residue was purified by column chromatography on silica gel (developing solvent:hexane/ethyl acetate) to obtain tert-butyl((2S,3S)-1-ethoxy-3-hydroxybutan-2-yl)carbamate as colorless amorphous.

reactant | p-toluenesulfonic acid monohydrate | 134 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | (4S,5S)-tert-butyl 4-(ethoxymethyl)-2,2,5-trimethyloxazolidine-3-carboxylate | C(C)OC[C@@H]1N(C(O[C@H]1C)(C)C)C(=O)OC(C)(C)C | C14H27NO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | CO | CH4O
solvent | Methanol | 130 mL | CO | CH4O
product | tert-butyl((2S,3S)-1-ethoxy-3-hydroxybutan-2-yl)carbamate | C(C)(C)(C)OC(N[C@@H](COCC)[C@H](C)O)=O | C11H23NO4
